US07071201B2
(278-1) 1-[2-(4-Fluorophenyl)ethyl]-4-[6-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl]piperidine
47% hydrobromic acid (45 ml) was added to 1-[2-(4-fluorophenyl)ethyl]-4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)piperidine (2.718 g, 7.57 mmol) and the resultant mixture was heated under reflux for 1 hr. After adding glacial acetic acid (20 ml), the resultant mixture was heated under reflux for additional 1.5 hr. Then the mixture was allowed to cool followed by addition of water thereto. The resulting precipitate was collected by filtration, chloroform and a saturated aqueous solution of sodium bicarbonate were added thereto and the layers were separated. The resulting solution was dried over magnesium sulfate and the solvent was evaporated under reduced pressure to give the title compound (2.043 g) as a brown amorphous substance (yield: 76.4%).

reactant | hydrobromic acid | 45 ml | Br | BrH
reactant | 1-[2-(4-fluorophenyl)ethyl]-4-(6-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)piperidine | 7.57 mmol, 2.718 g | FC1=CC=C(C=C1)CCN1CCC(CC1)C1CCCC2=CC(=CC=C12)OC | C24H30FNO
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-[2-(4-Fluorophenyl)ethyl]-4-[6-hydroxy-1,2,3,4-tetrahydronaphthalen-1-yl]piperidine | 2.043 g, yield: 76.4% | FC1=CC=C(C=C1)CCN1CCC(CC1)C1CCCC2=CC(=CC=C12)O | C23H28FNO
